### PR TITLE
[Merged by Bors] - perf(FunLike.Basic): beta reduce `CoeFun.coe`

### PR DESCRIPTION
**Pull request by astrainfinita**
This eliminates `(fun a ↦ β) α` in the type when applying a `FunLike`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237905.20instance.20for.20non-dependent.20.60FunLike.60/near/398658194)

### CODE REVIEW

**Comment by negiizhao** [comment]
!bench

**Comment by negiizhao** [comment]
!bench

File: Mathlib/Data/FunLike/Basic.lean [hunk 1]
```diff
@@ -211,6 +215,8 @@ variable {F α β : Sort*} [i : FunLike F α fun _ ↦ β]
 
 namespace FunLike
 
+instance (priority := 110) ndHasCoeToFun : CoeFun F fun _ ↦ α → β where coe := FunLike.coe
```
Comment (eric-wieser) [inline Mathlib/Data/FunLike/Basic.lean:218]:
```suggestion
/-- A version of FunLike.hasCoeToFun for non-dependent functions, which gives a performance boost, and avoids unwanted missing beta-reduction. -/
instance (priority := 110) hasCoeToFunNonDependent : CoeFun F fun _ ↦ α → β where coe := FunLike.coe
```

**Review by eric-wieser — COMMENTED** [review]
Can you add a file in `test/` that demonstrates that the inferred type of non-dependent funlikes is improved?

File: Mathlib/Data/FunLike/Basic.lean [hunk 2]
```diff
@@ -125,6 +125,10 @@ injective coercion to functions from `α` to `β`.
 
 This typeclass is used in the definition of the homomorphism typeclasses,
 such as `ZeroHomClass`, `MulHomClass`, `MonoidHomClass`, ....
+
+Lean will try to synthesize non-dependent `FunLike` typeclasses first by default. Use the command
+`attribute [local instance high] FunLike.hasCoeToFun` if you want dependent `FunLike` typeclasses
+to be synthesized.
```
Comment (eric-wieser) [inline Mathlib/Data/FunLike/Basic.lean:131]: Did any files end up needing this?
```suggestion
`attribute [local instance high] FunLike.hasCoeToFun` for better performance when you are using lots of dependent `FunLike` typeclasses.
```
to make it clear that this is only a performance concern.

File: Mathlib/Data/FunLike/Basic.lean (hunk 1 above)
Comment (Vierkantor) [inline Mathlib/Data/FunLike/Basic.lean:218]:
```suggestion
/-- Non-Dependent variant of `FunLike.hasCoeToFun`.

We give this higher priority because it is simpler and therefore significantly speeds up usages of `FunLike`. -/
instance (priority := 110) ndHasCoeToFun : CoeFun F fun _ ↦ α → β where coe := FunLike.coe
```

File: Mathlib/Data/FunLike/Basic.lean (hunk 2 above)
Comment (Vierkantor) [inline Mathlib/Data/FunLike/Basic.lean:131]: Could you explain in the comment why the dependent version isn't just a fallback for the non-dependent version? (I assume it's because of `outParam`s.)

File: Mathlib/Data/FunLike/Basic.lean [hunk 3]
```diff
@@ -125,6 +125,10 @@ injective coercion to functions from `α` to `β`.
 
 This typeclass is used in the definition of the homomorphism typeclasses,
 such as `ZeroHomClass`, `MulHomClass`, `MonoidHomClass`, ....
+
+Lean will try to synthesize non-dependent `FunLike` typeclasses first by default. Use the command
+`attribute [local instance high] FunLike.hasCoeToFun` if you want dependent `FunLike` typeclasses
```
Comment (Vierkantor) [inline Mathlib/Data/FunLike/Basic.lean:130]: Small terminology fix:
```suggestion
Lean will try to synthesize non-dependent `FunLike` instances first by default. Use the command
`attribute [local instance high] FunLike.hasCoeToFun` if you want dependent `FunLike` instances
```

File: Mathlib/Algebra/Lie/DirectSum.lean [hunk 4]
```diff
@@ -197,7 +197,7 @@ theorem lie_of_of_eq [DecidableEq ι] {i j : ι} (hij : j = i) (x : L i) (y : L
     lieAlgebraOf_apply]
 #align direct_sum.lie_of_of_eq DirectSum.lie_of_of_eq
 
-@[simp]
+-- @[simp] -- LHS doesn't simplify after #7905
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/DirectSum.lean:200]: This one is rather worrying

File: Mathlib/Data/Finsupp/Pointwise.lean [hunk 5]
```diff
@@ -103,14 +103,9 @@ instance pointwiseScalar [Semiring β] : SMul (α → β) (α →₀ β) where
       rw [h, smul_zero])
 #align finsupp.pointwise_scalar Finsupp.pointwiseScalar
 
-@[simp]
-theorem coe_pointwise_smul [Semiring β] (f : α → β) (g : α →₀ β) : FunLike.coe (f • g) = f • g :=
-  rfl
-#align finsupp.coe_pointwise_smul Finsupp.coe_pointwise_smul
-
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Pointwise.lean:110]: Why did this go?

File: Mathlib/Geometry/RingedSpace/Stalks.lean [hunk 6]
```diff
@@ -225,7 +225,7 @@ def stalkIso {X Y : PresheafedSpace.{_, _, v} C} (α : X ≅ Y) (x : X) :
 set_option linter.uppercaseLean3 false in
 #align algebraic_geometry.PresheafedSpace.stalk_map.stalk_iso AlgebraicGeometry.PresheafedSpace.stalkMap.stalkIso
 
-@[simp, reassoc, elementwise]
```
Comment (eric-wieser) [inline Mathlib/Geometry/RingedSpace/Stalks.lean:228]: Why was this de-`simp`ed? Does the same comment apply as elsewhere about `simpNF` getting confused?

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean [hunk 7]
```diff
@@ -118,18 +118,18 @@ theorem ofDirectSum_toDirectSum (x : TensorAlgebra R M) :
 #align tensor_algebra.of_direct_sum_to_direct_sum TensorAlgebra.ofDirectSum_toDirectSum
 
 @[simp]
-theorem mk_reindex_cast {n m : ℕ} (h : n = m) (x : (⨂[R]^n) M) :
+theorem mk_reindex_cast {n m : ℕ} (h : Fin n = Fin m) (x : (⨂[R]^n) M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean:121]: I preferred the original statement of this lemma.

File: Mathlib/Data/FunLike/Basic.lean (hunk 2 above)
Comment (negiizhao) [reply Mathlib/Data/FunLike/Basic.lean:131]: I added it in `Mathlib.Geometry.Manifold.VectorBundle.SmoothSection`. It was the file that slowed down significantly in the first benchmark.

File: Mathlib/Data/Finsupp/Pointwise.lean (hunk 5 above)
Comment (negiizhao) [reply Mathlib/Data/Finsupp/Pointwise.lean:110]: The `synTaut` linter reports it's a syntactic tautology.

Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Pointwise.lean:110]: Then there is a coercion missing; the statement should really be `FunLike.coe (f • g) = f • FunLike.coe `, though written with `\u` isntead of `FunLike.coe` to allow your nondependent instance to fire.

File: Mathlib/Data/FunLike/Basic.lean (hunk 2 above)
Comment (ericrbg) [reply Mathlib/Data/FunLike/Basic.lean:131]: Note it down there too, I think

**Review by Vierkantor — COMMENTED** [review]
I'm impressed by the results, but I must say I'm not convinced that this is the way to go with respect to readability/ease of use. I count 46 files with code improvements and 40 files with code regressions (such as `rw` becoming `erw`, extra arguments needing to be specified, etc.). To have to make a manual choice between the two `hasCoeToFun` and `ndHasCoeToFun` instances seems likely to cause confusion.

Ideally we'd assign `hasCoeToFun` a type that beta-reduces more eagerly so there is no duplication at all. I have an idea, let me see how far I get...

File: Mathlib/Data/FunLike/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/FunLike/Basic.lean:218]: I think our comments crossed, https://github.com/leanprover-community/mathlib4/pull/7905#discussion_r1372940923

File: Mathlib/Data/FunLike/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/FunLike/Basic.lean:131]: I think this should really just be giving performance advice, https://github.com/leanprover-community/mathlib4/pull/7905#discussion_r1372943100

File: Mathlib/Geometry/RingedSpace/Stalks.lean (hunk 6 above)
Comment (negiizhao) [reply Mathlib/Geometry/RingedSpace/Stalks.lean:228]: Is a lemma with proof parameters that do not appear directly on the LHS (but a proof that uses it) appropriate as a `simp` lemma? If it should be, then I'll add a note.

**Comment by Vierkantor** [comment]
> I have an idea, let me see how far I get...

Answer: not far enough. `expandCoe` does a `headBeta` on the expression, which means that this shortcut instance does work but any tricks inside the original instance's type does not. So the way to go is indeed either a change in Lean core or to have this shortcut instance.

**Comment by ericrbg** [comment]
What would the change to Lean core look like?

**Comment by Vierkantor** [comment]
> What would the change to Lean core look like?

I think we'd need to modify [`expandCoe`](https://github.com/leanprover/lean4/blob/6c5f79c0df01e9cd74ac4ee411ec392a5ac1b5d3/src/Lean/Meta/Coe.lean#L32) to do more aggressive `β` reduction. (But I haven't tried out if that indeed works.)

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean:121]: (due to equalities of types being evil)

**Comment by mattrobball** [comment]
Following discussion on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237905.20instance.20for.20non-dependent.20.60FunLike.60) and testing in #8185, you should delete the new instance and replace `FunLike.hasCoeToFun` with 
```lean 
instance (priority := 100) hasCoeToFun : CoeFun F (fun _ ↦ ∀ a : α, β a) where
  coe := @FunLike.coe _ _ β _ -- need to make explicit to beta reduce for non-dependent functions
```
this will expose the function signature to beta reduction and yield the same benefits with the duplicate instance.

**Comment by mattrobball** [comment]
@negiizhao Please let us know your thoughts on this PR. Your insight on the performance impact from the extra beta expansion, your identification of a viable fix, and the hard work in making Mathlib build are the vast majority of the work here. 

Given the benefits, it would be nice to get this merged asap. 🙏

**Comment by eric-wieser** [comment]
What is the difference between the files in this PR and #8185? Can we close this one in favor of #8185?

**Comment by mattrobball** [comment]
Great! 😊 Can you adjust the title and body of the PR and quickly compare to the fixes in #8185 to make sure things are as minimal as possible before merging? Thanks!

bors delegate+

**Comment by negiizhao** [comment]
!bench

File: Mathlib/Data/Finsupp/Pointwise.lean [hunk 8]
```diff
@@ -108,7 +108,7 @@ instance pointwiseScalar [Semiring β] : SMul (α → β) (α →₀ β) where
 #align finsupp.pointwise_scalar Finsupp.pointwiseScalar
 
 @[simp]
-theorem coe_pointwise_smul [Semiring β] (f : α → β) (g : α →₀ β) : FunLike.coe (f • g) = f • g :=
+theorem coe_pointwise_smul [Semiring β] (f : α → β) (g : α →₀ β) : f • g = f • FunLike.coe g :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Pointwise.lean:111]: Let's be explicit here:
```suggestion
theorem coe_pointwise_smul [Semiring β] (f : α → β) (g : α →₀ β) : ⇑(f • g) = ⇑f • ⇑g :=
```

File: Mathlib/Geometry/RingedSpace/Stalks.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Geometry/RingedSpace/Stalks.lean:228]: Yes, I think this is still fine as a simp lemma, since `simp` creates `x ⤳ y` as a side-goal. Did the linter complain?

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean [hunk 9]
```diff
@@ -118,18 +118,23 @@ theorem ofDirectSum_toDirectSum (x : TensorAlgebra R M) :
 #align tensor_algebra.of_direct_sum_to_direct_sum TensorAlgebra.ofDirectSum_toDirectSum
 
 @[simp]
+theorem mk_reindex_cast' {n m : ℕ} (h : Fin n = Fin m) (x : (⨂[R]^n) M) :
+    GradedMonoid.mk (A := fun i => (⨂[R]^i) M) m
+    (PiTensorProduct.reindex R M (Equiv.cast h) x) =
+    GradedMonoid.mk n x :=
+  Eq.symm (PiTensorProduct.gradedMonoid_eq_of_reindex_cast (fin_injective h) rfl)
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean:126]: I think we should get rid of this, since type equalities are evil. Does the proof below break without it?

File: Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean [hunk 10]
```diff
@@ -375,11 +374,16 @@ theorem diagonalHomEquiv_symm_apply (f : (Fin n → G) → A) (x : Fin (n + 1) 
...
   erw [ModuleCat.coe_comp]
-  simp only [ModuleCat.coe_comp, Function.comp_apply]
+  simp only [ModuleCat.coe_comp, Function.comp_apply] -/
+  change (TensorProduct.uncurry k (of (Representation.ofMulAction k G G)) (of 1) A
+    (leftRegularHom ((ihom (of 1)).obj A) (Finsupp.llift A k k (Fin n → G) f)).hom
+    (((Representation.ofMulAction k G G).repOfTprodIso 1).hom.hom
+      ((diagonalSucc k G n).hom.hom (fun₀ | x => (1 : k))))) = _
   -- This used to be `rw`, but we need `erw` after leanprover/lean4#2644
-  erw [diagonalSucc_hom_single]
+  erw [diagonalSucc_hom_single x (1 : k)]
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean:386]: This one looks a bit worrying

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 11]
```diff
@@ -570,7 +570,7 @@ theorem fun_eq_repr {x ζ : (𝓞 K)ˣ} {f : Fin (rank K) → ℤ} (hζ : ζ ∈
                       rw [h, QuotientGroup.mk_mul, (QuotientGroup.eq_one_iff _).mpr hζ, one_mul,
                         QuotientGroup.mk_prod, ofMul_prod]; rfl
                     _ = ∑ i, (f i) • (basisModTorsion K i) := by
-                      simp_rw [fundSystem, QuotientGroup.out_eq', ofMul_toMul]
+                      simp_rw [fundSystem, QuotientGroup.out_eq']; rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/NumberField/Units.lean:573]: This one is a bit weird; I'll take a look once a cache is ready.

File: Mathlib/Logic/Equiv/Set.lean [hunk 12]
```diff
@@ -486,7 +486,6 @@ protected noncomputable def image {α β} (f : α → β) (s : Set α) (H : Inje
 #align equiv.set.image Equiv.Set.image
 #align equiv.set.image_apply Equiv.Set.image_apply
 
-@[simp]
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Set.lean:489]: Was this rejected by `simpNF`? If so, in favor of what lemma?

File: Mathlib/Geometry/RingedSpace/Stalks.lean (hunk 6 above)
Comment (negiizhao) [reply Mathlib/Geometry/RingedSpace/Stalks.lean:228]: Yes, `simpNF` linter complains. I think this is because `x ⤳ y` doesn't appear directly on the LHS.

Comment (eric-wieser) [reply Mathlib/Geometry/RingedSpace/Stalks.lean:228]: Is `x ⤳ y` a proof as you said it was, or is it data?

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean (hunk 9 above)
Comment (negiizhao) [reply Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean:126]: For the same reason as above, the version with `h : n = m` is no longer a simp lemma. But removing it won't break things.

File: Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean (hunk 10 above)
Comment (negiizhao) [reply Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean:386]: It's not necessary now, but this will be faster.

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean:126]: I think all of the removed `simp` attributes should come with a comment referring to 7905; as far as I can tell, all of them look a bit iffy.

File: Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/RepresentationTheory/GroupCohomology/Resolution.lean:386]: I think best to revert anything that isn't direct fallout of this change. Any other cleanups can go in a separate PR if you think they're still a good idea

File: Mathlib/Geometry/RingedSpace/Stalks.lean (hunk 6 above)
Comment (negiizhao) [reply Mathlib/Geometry/RingedSpace/Stalks.lean:228]: It's a proof https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Inseparable.html#Specializes

File: Mathlib/Logic/Equiv/Set.lean (hunk 12 above)
Comment (negiizhao) [reply Mathlib/Logic/Equiv/Set.lean:489]: `⟨x, ⟨h, rfl⟩⟩ : f x ∈ f '' s` is a proof.

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Set.lean:489]: That's not supposed to matter... Either way, I'm happy with the comments for now, this PR is clearly a big improvement in general.

**Comment by eric-wieser** [comment]
I'm happy with this now, thanks! I'd like to jump into an editor once the cache is ready and fiddle with a couple proofs; please ping me if this PR is green and I haven't already done so. If I don't respond, I'm fine with it being merged in 8 hours.

File: Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean]: This looks like a bug to me, https://github.com/leanprover/std4/issues/365.

I suggest you replace all of these with `simpNF`, and add a comment referencing `std4#365`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorAlgebra/ToTensorPower.lean]: I've gone ahead and done that

**Comment by eric-wieser** [comment]
bors merge
